US05096890
Preparation of 5-chloroacetyl-2,3-dihydrobenzofuran
Chloroacetyl chloride (10.39 g) was dissolved in methylene chloride (25 ml) and the solution was added to a slurry of aluminium chloride (12.2 g) in methylene chloride (50 ml) at -15° C. A solution of dihydrobenzofuran (10 g) in methylene chloride (25 ml) was added and the solution was allowed to warm to room temperature over 20 hours. The reaction mixture was poured into ice (700 g) and the aqueous layer was back-washed with methylene chloride (2×200 ml). The combined organic extracts were washed with water (800 ml), dried with MgSO4 and concentrated in vacuo. The resulting solid (11 g) was heated in cyclohexane (110 ml) and the supernatant liquid decanted off and allowed to crystallise. Filtration produced the title compound as a white solid, yield 2.1 g, m.p. 85°-87° C.

reactant | Chloroacetyl chloride | 10.39 g | ClCC(=O)Cl | C2H2Cl2O
reactant | aluminium chloride | 12.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dihydrobenzofuran | 10 g | COC(=O)/C=C/C1=CC2=C(C(=C1)O)OC(C2C(=O)OC)C=3C=CC(=C(C3)O)O | C20H18O8
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 5-chloroacetyl-2,3-dihydrobenzofuran | ClCC(=O)C=1C=CC2=C(CCO2)C1 | C10H9ClO2
